US04435405
2-Dimethylaminoethanethiol hydrochloride (58.40 g. of 80% w/w) was added to a suspension of sodium hydride (31.68 g. of a 50% w/w dispersion in mineral oil) in dimethylformamide (500 ml.) at 0° to 5°. When all the hydrogen had evolved, a solution of 2-chloro-3-phenylquinoline (72.70 g.) in dimethylformamide (100 ml.) was added and the mixture stirred and heated at 75° for 5 hr. The reaction mixture was then poured into ice water (4000 ml.) and extracted with ethyl acetate (6×500 ml.). The ethyl acetate extract was washed succesively with water (1000 ml.) and saturated brine (1000 ml.), and then dried (MgSO4). The ethyl acetate solution was evaporated and the residual oil was chromatographed on basic alumina (1200 g.; Brockmann Grade III), eluted with increasing concentrations of chloroform in petroleum ether. The elutate obtained with 10% v/v chloroform in petroleum ether was evaporated. The residual solid was dissolved in ethanol (800 ml.) and treated with concentrated hydrochloric acid (25.2 ml.). The ethanol was evaporated, and the oily residue was azeotroped with toluene. The solid obtained was recrystallised from ethanol-diethyl ether and was then washed with a small volume of cold acetone. The mixture was filtered and there was obtained as the solid residue 2-(2-dimethylaminoethylthio)-3-phenylquinoline hydrochloride, m.p. 195°-8° C.

reactant | 2-Dimethylaminoethanethiol hydrochloride | 58.40 g | Cl.CN(CCS)C
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-chloro-3-phenylquinoline | 72.70 g | ClC1=NC2=CC=CC=C2C=C1C1=CC=CC=C1 | C15H10ClN
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(2-dimethylaminoethylthio)-3-phenylquinoline hydrochloride | Cl.CN(CCSC1=NC2=CC=CC=C2C=C1C1=CC=CC=C1)C | InChI=1S/C19H20N2S.ClH/c1-21(2)12-13-22-19-17(15-8-4-3-5-9-15)14-16-10-6-7-11-18(16)20-19;/h3-11,14H,12-13H2,1-2H3;1H
